Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dilantin / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Elevated LFTs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yoM with mental retardation, stroke, mitral 
valve prolapse s/p MVR (bovine), fulminant hepatic failure due 
to dilantin toxicity s/p OLT (___) c/b anastomotic strictures 
and recurrent choledocholithiasis (most recent ERCP ___ tight 
stricture w/ hard 12mm stone ___ to stricture not removed, FCMS 
placed); and is now ___ years 1 month s/p transplant, with very 
narrow biliary stricture that has failed stenting with multiple 
ERCPs. 

He was admitted ___ for stent pull and re-evaluation with Dr. 
___. During the procedure then, the previously placed metal 
stent was migrated distally and was not found, despite several 
attempts with different equipment the anastomotic stricture 
could not be passed through. 

There was talk of roux en y, but he was asymptomatic and labs 
normal so we have been watching him for past several months. 
LFTs bumped slightly last week so we repeated, now elevated.  
Tbili 3.9 (1.1, 0.8) Alk Phos 117 (70, 55) AST 304 (19, 17) ALT 
383 (49, 25) WBC 11.2 (6.7).

Patient is a direct admission.

On arrival to the floor, patient has no complains. He is 
continually asking to be able to watch ___ 

 
Past Medical History:
(per chart review)
Mitral valve prolapse, hypothyroidism, cerebral AVM (per OSH 
notes, patient had abnormal CTOH in ___ but since then all
others WNL, ? embolic CVA from mitral valve?), cholelithiasis,
anxiety, Lyme disease, mental retardation

PSHx: MV replacement ___ (___), ___ Liver transplant, 
___ G tube placement by ___
 
Social History:
___
Family History:
unknown, limited by patient's mental status. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
==========================
VITAL SIGNS: 98.0 PO 155 / 93 L Sitting 86 18 98 RA 
GENERAL: comfortable appearing, NAD. 
HEENT: PERRL bilaterally, oropharynx clear
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: RUQ surgical scar is well healed, nondistended, +BS, 
nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly  
EXTREMITIES: no edema  
NEURO: mentally retarded, follows commands but does not know 
year or month. 
SKIN: warm and well perfused 

PHYSICAL EXAM ON DISCHARGE
==========================
VITAL SIGNS: refused temp PO 119 / 77 78 16 94 RA GENERAL: 
comfortable appearing, NAD. 
HEENT: PERRL bilaterally, oropharynx clear
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: RUQ surgical scar is well healed, nondistended, +BS, 
nontender in all quadrants, no rebound/guarding, no 
hepatosplenomegaly  
EXTREMITIES: no edema  
NEURO: cognitively delayed, follows commands but does not know 
year or month. 
SKIN: warm and well perfused 
 
Pertinent Results:
LABS ON ADMISSION
=================
___ 05:10PM BLOOD WBC-8.2 RBC-5.15 Hgb-16.4 Hct-48.8 MCV-95 
MCH-31.8 MCHC-33.6 RDW-13.2 RDWSD-44.9 Plt ___
___ 05:10PM BLOOD ___ PTT-33.0 ___
___ 05:10PM BLOOD Glucose-96 UreaN-28* Creat-1.1 Na-140 
K-4.4 Cl-103 HCO3-21* AnGap-20
___ 05:10PM BLOOD ALT-110* AST-35 AlkPhos-105 TotBili-0.5
___ 05:10PM BLOOD Calcium-9.3 Phos-2.9 Mg-1.8

PERTNENT LABS
==============
___ 05:10AM BLOOD tacroFK-4.7*
___ 06:30AM BLOOD tacroFK-5.1

LABS ON DISCHARGE
=================
___ 06:30AM BLOOD WBC-7.9 RBC-5.24 Hgb-16.2 Hct-49.6 MCV-95 
MCH-30.9 MCHC-32.7 RDW-12.7 RDWSD-43.4 Plt ___
___ 06:30AM BLOOD ___ PTT-32.5 ___
___ 06:30AM BLOOD Glucose-108* UreaN-23* Creat-1.2 Na-138 
K-4.5 Cl-100 HCO3-22 AnGap-21*
___ 06:30AM BLOOD ALT-76* AST-24 AlkPhos-99 TotBili-0.7
___ 06:30AM BLOOD Calcium-9.3 Phos-3.7 Mg-1.8

 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with history of cognitive delay, 
stroke, mitral valve prolapse s/p MVR (bovine), fulminant 
hepatic failure due to dilantin toxicity s/p OLT (___) 
complicated by anastomotic strictures and recurrent 
choledocholithiasis (most recent ERCP ___ showed a tight 
stricture with a hard 12mm stone proximal to the stricture not 
removed, FCMS placed). He was admitted for transaminitis and 
hyperbilirubinemia without symptoms.  

#Transaminitis: On outpatient lab work, the patient had T bili 
3.9, Alk Phos 117, AST 304, ALT 383, WBC 11.2. On the day of 
admission, repeat lab work revealed a T bili of 0.5, and 
downtrending LFTs. The patient likely had choledocolithiasis, 
and has since passed the stone past the biliary stricture. The 
ERCP team followed along while patient was in-house and 
determined that an inpatient procedure was not necessary. The 
ERCP team will be in touch with Dr. ___ timing of 
repeat ERCP in the future. 

# Liver transplant with anastomotic stricture: Followed by Dr. 
___. He was continued on his home dose of 
immunosuppression. 

CHRONIC ISSUES: 
# Hypothyroidism - Continued levothyroxine Sodium 150 mcg PO 
DAILY 
# Cerebral AVM with Seizure disorder - continued home 
LeVETiracetam 
# Anxiety: Continued venlafaxine, prozac 
# HTN - Continued metoprolol tartrate 12.5 BID
# Vit D deficiency - Continued Vitamin D3 1000 daily
# GERD - Continued famotidine 20 q12hr.

Transitional issues
====================
-Patient will obtain labs on ___ and these will be faxed to 
Dr. ___ at the ___ to ensure resolution of LFT 
abnormalities.
-ERCP team will meet this upcoming week to discuss timing of 
repeat ERCP going forward and will be in touch with Dr. 
___ team

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO BID 
2. Vitamin D 1000 UNIT PO DAILY 
3. LevETIRAcetam ___ mg PO BID 
4. Metoprolol Tartrate 12.5 mg PO BID 
5. Tacrolimus 1.5 mg PO Q12H 
6. Docusate Sodium 100 mg PO BID 
7. FLUoxetine 60 mg PO DAILY 
8. Levothyroxine Sodium 150 mcg PO DAILY 
9. Venlafaxine 37.5 mg PO BID 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Famotidine 20 mg PO BID  
3.  FLUoxetine 60 mg PO DAILY  
4.  LevETIRAcetam ___ mg PO BID  
5.  Levothyroxine Sodium 150 mcg PO DAILY  
6.  Metoprolol Tartrate 12.5 mg PO BID 
Hold for SBP <100 or HR <55  
7.  Tacrolimus 1.5 mg PO Q12H  
8.  Venlafaxine 37.5 mg PO BID  
9.  Vitamin D 1000 UNIT PO DAILY  
10.Outpatient Lab Work
___.4: s/p liver transplant 

Please obtain labs on ___ and fax to Attention: Dr. ___ 
at ___

CBC, Chem 10, AST, ALT, Alk phos, Total bilirubin, Tacrolimus

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- Transaminitis
- s/p liver transplant

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent, some cognitive delay

 
Discharge Instructions:
Dear Mr. ___, 
You were hospitalized at ___.

Why were you here?
===============
- You were sent here by Dr. ___ of elevated liver 
enzymes that were seen on outpatient labs.

What did we do for you?
==================
- We monitored your labs, and your liver enzymes were resolving.

What do you need to do?
==================
- It is important that you follow up with Dr. ___ two 
weeks of leaving the hospital. We will make sure his office 
calls you to schedule an appointment. 
- Please get repeat lab work on ___. We will have the 
results faxed to Dr. ___. 

It was a pleasure caring for you. We wish you the best!

Sincerely, 
Your ___ Medicine Team
 
Followup Instructions:
___